US07601716B2
{4-[1-(2-Chloropyridin-3-ylmethyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-pyrrolidin-1-yl-piperidin-1-yl)methanone
4-[1-(2-Chloropyridin-3-ylmethyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid (38 mg) was reacted with 4-(1-pyrrolidinyl)piperidine as in General Procedure 8 to give the title compound as a yellow solid (20% yield). LCMS: m/z=516.89 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.50 (1H, m), 1.80 (5H, m), 1.97 (2H, m), 2.27 (1H, m), 2.58 (4H, m), 3.01 (2H, m), 3.50 (2H, m), 3.67 (2H, m), 3.79 (1H, m), 4.54 (2H, s), 4.95 (1H, bs), 6.58 (1H, d, J=1.5 Hz), 7.23 (1H, m), 7.36 (4H, m), 7.62 (1H, dd, J=7.6, 1.8 Hz), 7.73 (1H, d, J=1.8 Hz), 8.34 (1H, dd, J=4.8, 1.8 Hz).

reactant | 4-[1-(2-Chloropyridin-3-ylmethyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid | 38 mg | ClC1=NC=CC=C1CN1C2=C(NCC1)N=CC(=C2)C2=CC=C(C(=O)O)C=C2 | C20H17ClN4O2
reactant | 4-(1-pyrrolidinyl)piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | {4-[1-(2-Chloropyridin-3-ylmethyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-pyrrolidin-1-yl-piperidin-1-yl)methanone | 20% yield | ClC1=NC=CC=C1CN1C2=C(NCC1)N=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCC(CC2)N2CCCC2 | C29H33ClN6O
